US04330559
To a solution of methyl-2-difluoromethyl-2,5-diamino-pentanoate-dihydrochloride (2.7 g) in dry methanol (30 ml) is added under nitrogen 2 equivalents of sodium methylate in methanol (0.46 g of sodium in 20 ml of methanol). The reaction mixture is stirred for 3 hours at room temperature then the solvent is evaporated under reduced pressure. The residue is extracted with ether to yield crude 3-amino-3-difluoromethyl-2-piperidone which is purified either by crystallization from CHCl3 /pentane: (mp: 149° C.) or by distillation (bp: 135° C./0.05 mmHg).

reactant | methyl-2-difluoromethyl-2,5-diamino-pentanoate dihydrochloride | 2.7 g | COC(C(CCCN)(N)C(F)F)=O.C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 20 ml, 0.46 g | CO | CH4O
product | 3-amino-3-difluoromethyl-2-piperidone | NC1(C(NCCC1)=O)C(F)F | C6H10F2N2O
